* source HEARTRATE_MONITOR
.EXTERNAL OUTPUT Vout
V_V1         N00138 0 5Vdc
R_Rf         N00196 N00138  82.5 TC=0,0 
R_RL         N00130 N00138  20k TC=0,0 
X_U2         N00130 N01708 N03748 0 N01708 uA741
C_C1         N01708 N01824  1n  TC=0,0 
R_R1         N01831 N01824  1k TC=0,0 
R_R2         N02399 N01824  1k TC=0,0 
C_C2         N01831 N02399  1n  TC=0,0 
X_U3         N02399 N02406 N03617 0 N02431 uA741
R_R3         N02431 N02406  1k TC=0,0 
R_R4         N02406 N01831  1k TC=0,0 
V_V2         N03617 0 5Vdc
X_U4         N02997 N01831 V+ V- N01831 uA741
R_R5         N02997 N00138  100k TC=0,0 
R_R6         0 N02997  100k TC=0,0 
V_V3         N03748 0 5Vdc
R_R7         VOUT N02431  100 TC=0,0 
V_V4         N038171 0 2.9Vdc
V_V5         N038430 0 0.4Vdc
