* source HEARTRATE_MONITOR
R_R1         N05874 N05724  1k TC=0,0 
V_V1         N05432 0 5Vdc
R_R3         N05782 N05850  1k TC=0,0 
R_R4         N05850 N05874  1k TC=0,0 
R_R5         N06108 N05432  100k TC=0,0 
V_V3         N05448 0 5Vdc
C_C2         N05874 N05736  1n  TC=0,0 
R_Rf         N05528 N05432  82.5 TC=0,0 
R_RL         N05528 N05432  20k TC=0,0 
X_U3         N05736 N05850 N05504 0 N05782 uA741
V_V6         N05528 0 DC 0Vdc AC 1Vac 
X_U2         N05528 N05712 N05448 0 N05712 uA741
X_U4         N06108 N05874 V+ V- N05874 uA741
R_R6         0 N06108  100k TC=0,0 
V_V2         N05504 0 5Vdc
R_R2         N05736 N05724  1k TC=0,0 
C_C1         N05712 N05724  1n  TC=0,0 
